US08071609B2
B) (E)-N-(4-Methyl-3-(2-(6-(pyridin-3-ylamino)-9H-purin-9-yl)vinyl)phenyl)-3-(trifluoromethyl)benzamide
(E)-N-(3-(2-(6-Chloro-9H-purin-9-yl)vinyl)-4-methylphenyl)-3-(trifluoromethyl)benzamide (0.046 g, 0.10 mmol), 3-aminopyridine (0.022 g, 0.22 mmol), Pd2(dba)3 (5 mol %), 2-(dicyclohexylphosphino)biphenyl (7.5 mol %) and K3PO4 (0.032 g, 0.15 mmol) were mixed in DME. The mixture was heated at reflux under N2 for 15 h, cooled to rt, and partitioned between aq. Na2CO3 and EtOAc. The aqueous layer was extracted with ethyl acetate and the combined organic layers were dried over sodium sulfate, concentrated on a rotavap, and then purified by RP HPLC (acetonitrile/water/0.1% TFA): MS [M+H]+ 515.

reactant | (E)-N-(3-(2-(6-Chloro-9H-purin-9-yl)vinyl)-4-methylphenyl)-3-(trifluoromethyl)benzamide | 0.10 mmol, 0.046 g | ClC1=C2N=CN(C2=NC=N1)/C=C/C=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C22H15ClF3N5O
reactant | 3-aminopyridine | 0.22 mmol, 0.022 g | NC=1C=NC=CC1 | C5H6N2
reactant | 2-(dicyclohexylphosphino)biphenyl | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | K3PO4 | 0.15 mmol, 0.032 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DME | COCCOC | C4H10O2
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-N-(4-Methyl-3-(2-(6-(pyridin-3-ylamino)-9H-purin-9-yl)vinyl)phenyl)-3-(trifluoromethyl)benzamide | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)\C=C\N1C2=NC=NC(=C2N=C1)NC=1C=NC=CC1 | C27H20F3N7O
